US08039455B2
d) (S)-3-(3-Allyloxy-5-fluoro-phenyl)-2-tert-butoxycarbonylamino-propionic acid
The solution of 5.42 g racemic 2-acetylamino-3-(3-allyloxy-5-fluoro-phenyl)-propionic acid methyl ester in 2.4 ml toluene is added to 40 ml phosphate buffer pH 7.5. This mixture is treated with 300 μl Alcalase Typ DX (Lot:PMN0466) under pH-stat conditions. When the conversion reaches 48% the reaction mixture is washed with DCM [(R)-3-(3-allyloxy-5-fluoro-phenyl)-2-tert-butoxycarbonylamino-propionic acid methyl ester can be isolated from the organic extracts]. The aqueous phase is adjusted to pH 8 and cobalt(II)chloride is added to 0.1 mM final concentration. After addition of 400 mg Acylase Amano (Lot: ACV12502) the mixture is stirred at rt. When conversion is complete 70 ml THF and 2.53 g (18.35 mmol) sodium carbonate are added. At 0° C. 3.0 g (18.35 mmol) di-tert-butyl dicarbonate is added and the reaction is stirred at rt for 5 h. The organic solvent is evaporated at reduced pressure and remaining aqueous phase acidified to pH 3 and extracted with EtOAC. The combined organic layers are dried over magnesium sulfate and the solvent is evaporated under reduced pressure to give the yellow product.

reactant | racemic 2-acetylamino-3-(3-allyloxy-5-fluoro-phenyl)-propionic acid methyl ester | 5.42 g | COC(C(CC1=CC(=CC(=C1)F)OCC=C)NC(C)=O)=O | C15H18FNO4
reactant | phosphate | 40 ml, pH 7.5 | P(=O)([O-])([O-])[O-]
reactant | sodium carbonate | 18.35 mmol, 2.53 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | di-tert-butyl dicarbonate | 18.35 mmol, 3.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | toluene | 2.4 ml | C1(=CC=CC=C1)C | C7H8
catalyst | cobalt(II)chloride | [Co](Cl)Cl
solvent | THF | 70 ml | C1CCOC1 | C4H8O
product | (S)-3-(3-Allyloxy-5-fluoro-phenyl)-2-tert-butoxycarbonylamino-propionic acid | C(C=C)OC=1C=C(C=C(C1)F)C[C@@H](C(=O)O)NC(=O)OC(C)(C)C | C17H22FNO5
